US07071220B2
Synthesis of 5-fluoro-N-[2-methanesulfonyl-4-(5-methylthiazol-2-yl)phenyl]-3-methylbenzo[b]thiophene-2-sulfonamide (Compound 57)
Into 5 mL of 1,4-dioxane solution of 150 mg of 4-(5-fluoro-3-methylbenzo[b]thiophene-2-yl)sulfonamido-3-methanesulfonyl-N-(2-oxopropyl)benzamide was added 135 mg of diphosphorus pentasulfide, followed by 4.5 hours of heating under refluxing. The reaction was terminated by adding water to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, successively and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate 2/1 to 1/1) to obtain 115 mg of the title compound as amorphous.

reactant | 4-(5-fluoro-3-methylbenzo[b]thiophene-2-yl)sulfonamido-3-methanesulfonyl-N-(2-oxopropyl)benzamide | 150 mg | FC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=C(C=C(C(=O)NCC(C)=O)C=C2)S(=O)(=O)C)C=C1 | C20H19FN2O6S3
reactant | diphosphorus pentasulfide | 135 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-fluoro-N-[2-methanesulfonyl-4-(5-methylthiazol-2-yl)phenyl]-3-methylbenzo[b]thiophene-2-sulfonamide | 115 mg | FC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=C(C=C(C=C2)C=2SC(=CN2)C)S(=O)(=O)C)C=C1 | C20H17FN2O4S4
